US08629271B2
b) Ethyl 2-cyclopropylthiazole-4-carboxylate
A solution of ethyl 2-(cyclopropanecarboxamido)-3-mercaptopropanoate (example 57, step a) (5 g) and tosic acid (0.875 g) in toluene (100 mL) was heated at reflux under Dean and Stark conditions overnight. The reaction was allowed to cool and the toluene solution was washed with saturated sodium hydrogen carbonate solution (3×100 mL) dried over sodium sulphate, filtered and evaporated. The resulting brown gum was redissolved in acetonitrile (100 mL). Manganese dioxide (40 g) was added and the mixture heated at reflux overnight. The reaction was filtered through Celite and the filter pad washed with MeCN (3×100 mL). The combined filtrate and washings were evaporated and the residue purified by silica gel chromatography eluting with 9:1 to 4:1 isohexane:ethyl acetate gradient. The fractions containing product were combined and evaporated to give the subtitled compound as a clear oil. Yield 0.15 g.

reactant | ethyl 2-(cyclopropanecarboxamido)-3-mercaptopropanoate | C1(CC1)C(=O)NC(C(=O)OCC)CS | C9H15NO3S
reactant | tosic acid | 0.875 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-cyclopropylthiazole-4-carboxylate | C1(CC1)C=1SC=C(N1)C(=O)OCC | C9H11NO2S
